2154-02-02 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2154-2-1**] 11:29 PM
   U/S prelim- At least no diastolic component which may demonstrate some
   reversal of flow focally in the region of the hilum with persistently
   elevated resistive indices in the upper/mid/ lower poles. Rejection/ATN
   are of concern.
   Pt reports abdominal pain improved.
   Allergies:
   Erythromycin Base
   Unknown;
   Indomethacin
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2154-2-2**] 12:36 AM
   Vancomycin - [**2154-2-2**] 01:51 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-2**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 70 (69 - 77) bpm
   BP: 125/48(67) {105/38(63) - 143/106(114)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
             Total In:
                                                                     65 mL
                                                                  3,788 mL
   PO:
             TF:
   IVF:
                                                                     65 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                  1,060 mL
   Urine:
                                                                     80 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                  2,728 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   GENERAL: Pt ill appearing, pt with b/l upper ext remors, Oriented x3.
   Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. Dry MM, No xanthalesma.
   NECK: Supple with JVP unable to assess given cordis on RIJ.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. III/VI SEM no /r/g. No thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: well healed surgical scars, soft, + tenderness periumbilical
   and lower abdomen, no RUQ tenderness and no tenderness over implant
   site.
   EXTREMITIES: No c/c/ trace edema. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   439 K/uL
   9.6 g/dL
   168 mg/dL
   2.3 mg/dL
   27 mEq/L
   4.1 mEq/L
   101 mg/dL
   97 mEq/L
   138 mEq/L
   28.9 %
   11.1 K/uL
        [image002.jpg]
                            [**2154-2-2**]  04:02 AM
   WBC
   11.1
   Hct
   28.9
   Plt
   439
   Cr
   2.3
   TropT
   0.07
   Glucose
   168
   Other labs: PT / PTT / INR:34.5/40.3/3.5, CK / CKMB /
   Troponin-T:33//0.07, ALT / AST:16/18, Alk Phos / T Bili:137/0.4,
   Differential-Neuts:83.0 %, Lymph:9.2 %, Mono:7.1 %, Eos:0.4 %,
   Albumin:3.5 g/dL, LDH:166 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:7.2
   mg/dL
   Assessment and Plan
 HEART BLOCK, COMPLETE (CHB)
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   64 yo F with a-fib on coumadin, dCHF, mod-severe MR improved to mild MR
   on TEE [**12-17**], IDDM, HTN, hyperlipidemia, NASH & ESRD s/p liver and
   kidney [**7-/2153**] presented to [**Hospital1 **] with high degree 2:1 AV block and
   acute renal failure
   .
   .
   # RHYTHM: Pt with syncopal episode and found to have HR 20-30's at OSH.
   Likely high degree 2:1 AV block as p waves appear to be conducted on
   the OSH. Pt with transvenous pacer placed at the OSH and is being paced
   at 70. Pt hemodynamically stable. Unclear as to cause of block. Pt cath
   in [**2151**] showed 3VD, but no lesion required intervention. CE negative
   and no evidence of acute MI on ECG. Pt is on coreg at home (cleared by
   the liver, not kidney), no evidence of overdose. Pt with calcified
   aortic stenosis and mitral annular calcification that could contribute
   to AV block. No evidence of myocarditis. Additionally, hyperkalemia can
   cause AV block, but usually serum K needs to be > 6.3.
   - cont transvenous pacer
   - EP recs
   - hold Coreg
   - monitor on tele
   - cycle enzymes
   - ECG
   - TTE
   - send off lyme titers
   .
   # Acute on Chronic Renal Failure: Pt s/p kidney transplant 6/[**2153**].
   Baseline following transplant was 0.8-1.2.  However, was trending up to
   1.5 in [**1-16**]. Pt was started on metolazone 5mg in addition to 100mg
   lasix [**Hospital1 **] during her last admission. Pt with hyperkalemia at the OSH
   and elevated phos.Cr improved with 4L IVF. U/S concerning for
   rejection/ATN DDx: pre-renal from over diuresis, ATN, rejection, tacro
   nephrotoxicity, thrombosis, infection, obstructive
   - f/u final= U/S read
   - urine lytes
   - check tacro level and adjust dosing
   - f/u UA/UCx
   - check CMV VL
   - hold lasix, metolazone and ACEi
   - appreciate transplant recs
   - NPO for possible biopsy today
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - cont Bactrim ppx
   - monitor electrolytes
   - renally dose meds and avoid nephrotoxins
   .
   #. Leukocytosis: Pt with WBC count of 11.1, slight improvement. Lactate
   2.2. Pt afebrile, but temp of 100.o on admission. UA negative. CXR no
   infiltrate. CT at OSH unremarkable. Pt with no clear source.  However,
   pt is immunocompromised and unlikely to mount extensive response to
   infection. Pt with history of ESBL UTI in the past. Pt with abdominal
   pain, nausea, and diarrhea. No recent antibiotic use. Also consider
   abdominal source of infection as well.
   - empirically treat with meropenem and vancomycin for now
   - CT abd/pelvis non-con
   - f/u blood cultures
   - f/u urine cx
   - CMV VL
   - trend fever and leukocytosis
   - IVF prn
   - maintain MAPS >60
   .
   # CORONARIES: No evidence of ACS. CE trop 0.08, CK 41.
   - cont to trend enzymes
   - ASA 325mg
   - cont statin
   - holding ACEi and BB
   - ECG
   .
   # PUMP: Pt with dCHF (EF >55). Pt appears dry on exam
   - monitor resp status, daily weight and I/O
   - i/o even today
   - TTE
   - holding ACEi and BB
   .
   # A-fib: Pt currently tranvenous paced. INR 3.9.  Will hold coumadin
   overnight
   .
   # NASH s/p transplant: Pt LFT are stable. No evidence of acute
   rejection. Tranplant team following
   - cont to trend LFT daily
   - appreciate transplant recs
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - will adjust tacro dosing according to level
   - cont Bactrim ppx
   .
   # DM: Pt is on insulin at home.  Will cont home regimen
   - NPH 28U qam
   - QACHS FS anc cover with ISS
   - diabetic diet
   .
   # HTN: Pt BP was SBP 140-130's on admission
   - cont amlodipine
   - holding BB and ACEi as above
   .
   # Hyperlipidemia: cont home statin
   .
   FEN: NPO overnight
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx on coumadin
   -Pain management
   -Bowel regimen
   .
   CODE: Presumed full
   .
   COMM: [**Name (NI) **] [**First Name8 (NamePattern2) **] [**Name (NI) 511**]) [**Telephone/Fax (1) 9204**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2154-2-1**] 11:27 PM
   20 Gauge - [**2154-2-1**] 11:28 PM
   Cordis/Introducer - [**2154-2-1**] 11:29 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2154-02-03 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - per renal tx team, consider adding flagyl (added), checking for BK
   virus
   - needs meropenem approval
   - AS slightly worse on ECHO
   - Tx team reviewed abd CT from OSH, they are not concerened over
   abdominal infection.
   - renal function improved significantly
   S:  Pt reports diffuse abdominal pain [**9-17**], nausea, no vomiting, no
   diarrhea.  Normal BM today.  + neck pain at cordis site.  No fevers +
   chills.
   Allergies:
   Erythromycin Base
   Unknown;
   Indomethacin
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-2-2**] 01:51 AM
   Meropenem - [**2154-2-3**] 12:00 AM
   Metronidazole - [**2154-2-3**] 05:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-3**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 70 (70 - 70) bpm
   BP: 134/40(62) {100/25(45) - 143/81(97)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
             Total In:
                                                                  5,306 mL
                                                                    640 mL
   PO:
                                                                  1,170 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,086 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                  1,090 mL
   Urine:
                                                                  2,925 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,381 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: ill appearing uncomfortable.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Dry MM,
   NECK: Supple with JVP unable to assess given cordis on RIJ.
   CARDIAC: RR, normal S1, S2. III/VI SEM no /r/g. No thrills, lifts.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: well healed surgical scars, soft, + tenderness periumbilical
   and bilat upper quad abdominal pain, no tenderness over implant site.
   EXTREMITIES: No c/c/ e  wwp
   Labs / Radiology
   478 K/uL
   9.6 g/dL
   97 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   66 mg/dL
   105 mEq/L
   143 mEq/L
   29.5 %
   12.8 K/uL
        [image002.jpg]
                            [**2154-2-2**]  04:02 AM
                            [**2154-2-2**]  04:56 PM
                            [**2154-2-3**]  04:22 AM
   WBC
   11.1
   13.3
   12.8
   Hct
   28.9
   29.6
   29.5
   Plt
   439
   427
   478
   Cr
   2.3
   1.7
   1.2
   TropT
   0.07
   0.07
   Glucose
   168
   200
   97
   Other labs: PT / PTT / INR:31.0/37.3/3.1,
   CK / CKMB / Troponin-T:32//0.07,
   ALT / AST:13/20, Alk Phos / T Bili:126/0.3,
   Differential-Neuts:83.0 %, Lymph:9.2 %, Mono:7.1 %, Eos:0.4 %,
   Albumin:3.5 g/dL, LDH:200 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   MICRO:  CMV, Lyme titer are pending
   - blood cx [**2-1**]/ & [**2-2**] are ngtd.
   IMAGING:
   CXR -
   Assessment and Plan
   64 yo F with a-fib on coumadin, dCHF, mod-severe MR improved to mild MR
   on TEE [**12-17**], IDDM, HTN, hyperlipidemia, NASH & ESRD s/p liver and
   kidney [**7-/2153**] presented to [**Hospital1 **] with high degree 2:1 AV block and
   acute renal failure
   .
   .
   # RHYTHM: Pt with syncopal episode and found to have HR 20-30's at OSH.
   Likely high degree 2:1 AV block vs complete HB. Pt with transvenous
   pacer placed at the OSH and is being paced at 70. Pt hemodynamically
   stable. Unclear as to cause of block. Pt cath in [**2151**] showed 3VD, but
   no lesion required intervention. CE negative and no evidence of acute
   MI on ECG. Pt is on coreg at home (cleared by the liver, not kidney),
   no evidence of overdose. Pt with calcified aortic stenosis and mitral
   annular calcification that could contribute to AV block. No evidence of
   myocarditis. Additionally, hyperkalemia can cause AV block, but usually
   serum K needs to be > 6.3.
   - cont transvenous pacer
   - EP recs
   - hold Coreg
   - monitor on tele
   - cycle enzymes
   - ECG
   - TTE
   - send off lyme titers
   .
   # Acute on Chronic Renal Failure: Pt s/p kidney transplant 6/[**2153**].
   Baseline following transplant was 0.8-1.2.  However, was trending up to
   1.5 in [**1-16**]. Pt was started on metolazone 5mg in addition to 100mg
   lasix [**Hospital1 **] during her last admission. Pt with hyperkalemia at the OSH
   and elevated phos.Cr improved with 4L IVF. U/S concerning for
   rejection/ATN DDx: pre-renal from over diuresis, ATN, rejection, tacro
   nephrotoxicity, thrombosis, infection, obstructive
   - f/u final U/S read
   - urine lytes
   - check tacro level and adjust dosing
   - f/u UA/UCx
   - check CMV VL
   - hold lasix, metolazone and ACEi
   - appreciate transplant recs
   - NPO for possible biopsy today
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - cont Bactrim ppx
   - monitor electrolytes
   - renally dose meds and avoid nephrotoxins
   .
   #. Leukocytosis: Pt with WBC count of 11.1, slight improvement. Lactate
   2.2. Pt afebrile, but temp of 100.o on admission. UA negative. CXR no
   infiltrate. CT at OSH unremarkable. Pt with no clear source.  However,
   pt is immunocompromised and unlikely to mount extensive response to
   infection. Pt with history of ESBL UTI in the past. Pt with abdominal
   pain, nausea, and diarrhea. No recent antibiotic use. Also consider
   abdominal source of infection as well.
   - empirically treat with meropenem and vancomycin for now
   - CT abd/pelvis non-con
   - f/u blood cultures
   - f/u urine cx
   - CMV VL
   - trend fever and leukocytosis
   - IVF prn
   - maintain MAPS >60
   .
   # CORONARIES: No evidence of ACS. CE trop 0.08, CK 41.
   - cont to trend enzymes
   - ASA 325mg
   - cont statin
   - holding ACEi and BB
   - ECG
   .
   # PUMP: Pt with dCHF (EF >55). Pt appears dry on exam
   - monitor resp status, daily weight and I/O
   - i/o even today
   - TTE
   - holding ACEi and BB
   .
   # A-fib: Pt currently tranvenous paced. INR 3.9.  Will hold coumadin
   overnight
   .
   # NASH s/p transplant: Pt LFT are stable. No evidence of acute
   rejection. Tranplant team following
   - cont to trend LFT daily
   - appreciate transplant recs
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - will adjust tacro dosing according to level
   - cont Bactrim ppx
   .
   # DM: Pt is on insulin at home.  Will cont home regimen
   - NPH 28U qam
   - QACHS FS anc cover with ISS
   - diabetic diet
   .
   # HTN: Pt BP was SBP 140-130's on admission
   - cont amlodipine
   - holding BB and ACEi as above
   .
   # Hyperlipidemia: cont home statin
   .
   FEN:
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx on coumadin
   -Pain management
   -Bowel regimen
   .
   CODE: FULL
   .
   COMM: [**Name (NI) **] [**First Name8 (NamePattern2) **] [**Name (NI) 511**]) [**Telephone/Fax (1) 9204**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2154-2-1**] 11:27 PM
   20 Gauge - [**2154-2-1**] 11:28 PM
   Cordis/Introducer - [**2154-2-1**] 11:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-02-04 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2154-2-3**] 10:43 AM
   - CT a/p: neg for cause of abdominal pain.  Air in bladder and kidney
   most likey from foley cath.
   - Renal - I/O goal even. hold diuretics & ace
   - Transplant - abd pain possibly [**3-12**] constipation. inc bowel regimen
   and patient had BM without relief in pain.
   - hematuria noted
   - pt with OSA, uses CPAP at home.  Resp consult requested.
   Allergies:
   Erythromycin Base
   Unknown;
   Indomethacin
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-2-3**] 10:11 PM
   Metronidazole - [**2154-2-4**] 03:30 AM
   Meropenem - [**2154-2-4**] 04:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-4**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.1
C (98.8
   HR: 60 (60 - 70) bpm
   BP: 128/40(64) {74/33(36) - 132/74(83)} mmHg
   RR: 19 (11 - 31) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
             Total In:
                                                                  2,160 mL
                                                                    272 mL
   PO:
                                                                  1,120 mL
             TF:
   IVF:
                                                                  1,040 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  2,390 mL
                                                                    500 mL
   Urine:
                                                                  2,390 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   GENERAL: ill appearing uncomfortable.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Dry MM,
   NECK: Supple with JVP unable to assess given cordis on RIJ.
   CARDIAC: RR, normal S1, S2. III/VI SEM no /r/g. No thrills, lifts.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: well healed surgical scars, soft, + tenderness periumbilical
   and bilat upper quad abdominal pain, no tenderness over implant site.
   EXTREMITIES: No c/c/ e  wwp
   Labs / Radiology
   437 K/uL
   9.4 g/dL
   175 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.6 mEq/L
   52 mg/dL
   100 mEq/L
   137 mEq/L
   28.5 %
   15.3 K/uL
                            [**2154-2-2**]  04:02 AM
                            [**2154-2-2**]  04:56 PM
                            [**2154-2-3**]  04:22 AM
                            [**2154-2-4**]  05:13 AM
   WBC
   11.1
   13.3
   12.8
   15.3
   Hct
   28.9
   29.6
   29.5
   28.5
   Plt
   439
   427
   478
   437
   Cr
   2.3
   1.7
   1.2
   1.2
   TropT
   0.07
   0.07
   Glucose
   168
   200
   97
   175
   Other labs: PT / PTT / INR:22.2/34.3/2.1, CK / CKMB /
   Troponin-T:32//0.07, ALT / AST:[**12-26**], Alk Phos / T Bili:125/0.3,
   Differential-Neuts:83.0 %, Lymph:9.2 %, Mono:7.1 %, Eos:0.4 %, Lactic
   Acid:2.2 mmol/L, Albumin:3.5 g/dL, LDH:176 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   CT abdomen/ pelvis: no new abdominal or pelvic fluid. Gas within
   collecting system of transplant kidney most likely refluxed air from
   urinary bladder, rather than infection
   Assessment and Plan
   64 yo F with a-fib on coumadin, dCHF, mod-severe MR improved to mild MR
   on TEE [**12-17**], IDDM, HTN, hyperlipidemia, NASH & ESRD s/p liver and
   kidney [**7-/2153**] presented to [**Hospital1 **] with high degree 2:1 AV block and
   acute renal failure
   .
   .
   # RHYTHM: Pt with syncopal episode and found to have HR 20-30's at OSH.
   Likely high degree 2:1 AV block vs complete HB. Pt with transvenous
   pacer placed at the OSH and is being paced at 70. Pt hemodynamically
   stable. Unclear as to cause of block. Pt cath in [**2151**] showed 3VD, but
   no lesion required intervention. CE negative and no evidence of acute
   MI on ECG. Pt is on coreg at home (cleared by the liver, not kidney),
   no evidence of overdose. Pt with calcified aortic stenosis and mitral
   annular calcification that could contribute to AV block. No evidence of
   myocarditis. Additionally, hyperkalemia can cause AV block, but usually
   serum K needs to be > 6.3.
   - cont transvenous pacer
 pt unable to tol brief period off pacer
   - EP recs
   - hold Coreg
   - monitor on tele
   - TTE
   - fup lyme
   .
   # Acute on Chronic Renal Failure: Pt s/p kidney transplant 6/[**2153**].
   Baseline following transplant was 0.8-1.2.  Cr improved to 1.2 less
   likely rejection or ATN given rapid improvement.  Most likely
   overdiuresis.  DDx: no e/o thrombosis, ? infection, obstructive
   - check tacro level and adjust dosing
   - f/u UA/UCx, BK virus in the urine, CMV VL
   - hold lasix, metolazone and ACEi
   - appreciate transplant recs
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - check tacrol level daily and dose by level.
   - cont Bactrim ppx
   - monitor electrolytes
   - renaly dose meds and avoid nephrotoxins
   .
   #. Leukocytosis: Pt with WBC count of 11.1, slight improvement. Lactate
   2.2. Pt afebrile, but temp of 100.o on admission. UA negative. CXR no
   infiltrate. CT at OSH unremarkable. Pt with no clear source.  However,
   pt is immunocompromised and unlikely to mount extensive response to
   infection. Pt with history of ESBL UTI in the past. Pt with abdominal
   pain, nausea, and diarrhea. No recent antibiotic use. Also consider
   abdominal source of infection as well.
   - empirically treat with meropenem, flagyl & vancomycin
   - CT abd/pelvis non-con
   - f/u blood cultures, urine, CMV & BK
   - trend fever and leukocytosis
   .
   # CORONARIES: No evidence of ACS. CE trop 0.08, CK 41.
   - cont to trend enzymes
   - ASA 325mg
   - cont statin
   - holding ACEi and BB
   .
   # PUMP: Pt with dCHF (EF >55). Pt appears euvolemic on exam
   - monitor resp status, daily weight and I/O
   - i/o even today
   - TTE
   - holding ACEi and BB
   .
   # A-fib: Pt currently tranvenous paced. INR 3.1.  Will hold coumadin
   overnight
   .
   # NASH s/p transplant: Pt LFT are stable. No evidence of acute
   rejection. Tranplant team following
   - cont to trend LFT daily
   - appreciate transplant recs
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - will adjust tacro dosing according to level
   - cont Bactrim ppx
   .
   # DM: Pt is on insulin at home.  Will cont home regimen
   - NPH 28U qam
   - QACHS FS andcover with ISS
   - diabetic diet
   .
   # HTN: Pt BP was SBP 140-130's with pacing.  Without pacing SBP
   decreases to 70
   - cont amlodipine
   - holding BB and ACEi as above
   .
   # Hyperlipidemia: cont home statin
   .
   FEN:
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx on coumadin
   -Pain management
   -Bowel regimen
   .
   CODE: FULL
   .
   COMM: [**Name (NI) **] [**First Name8 (NamePattern2) **] [**Name (NI) 511**]) [**Telephone/Fax (1) 9204**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2154-2-1**] 11:29 PM
   20 Gauge - [**2154-2-3**] 08:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-02-05 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2154-2-4**] 09:10 PM
   urine sent for BK Virus by PCR
   - ESBL klebsiella in OSH urine cx -> sensitivities getamycin mic < 4,
   ertapenem mic < 0.5, impenem
   - CT final read: mural thickening at the gastric fundus could represent
   peristalsis/focal collapse. However, correlation is advised to
   determine if there are epigastric clinical symptoms.  stable right
   adrenal mass (myelolipoma), stable Left adnexal cyst
   - OSH blood cx from [**2154-2-1**] NGTD as of [**2-3**]
   - ordered heparin gtt for hx splenic vein thrombosis on [**2153-11-8**] but
   held [**3-12**] persistent hematuria with multiple clots despite CBI
   - EP: preliminary plan to place pacemaker on [**2-5**].  will d/c heparin
   gtt at 2am prior to procedure
   - renal recs: increase prograf to 2.0 mg [**Hospital1 **]
   - adjusted dosing of abx based on improving renal function: now [**Last Name (un) 430**]
   500mg q 6hrs but would consider uptitrating to 1gm q 8 based on BMI in
   am
   - ID recs: d/ced flagyl/ vanco.  Cont meropenem likely for 2 week
   course.  Also sent serum adenovirus/BK/EBV/HHV6 PCR; urine BK PCR;
   nasopharyngeal swab and placed on contact [**Name (NI) **] until r/o flu
   - started low dose ativan for anxiety
   - tried ditropan 10mg x 1 for bladder spasm
   Allergies:
   Erythromycin Base
   Unknown;
   Indomethacin
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-2-3**] 10:11 PM
   Metronidazole - [**2154-2-4**] 12:30 PM
   Meropenem - [**2154-2-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-5**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 60 (60 - 61) bpm
   BP: 124/56(73) {110/32(56) - 156/93(97)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 90%
   Heart rhythm: V Paced
             Total In:
                                                                  2,022 mL
                                                                    426 mL
   PO:
                                                                  1,400 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    622 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,075 mL
   Urine:
   1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,022 mL
                                                                   -649 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///29/
   Physical Examination
   GENERAL: anxious about the procedure today
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Dry MM,
   NECK: Supple with JVP unable to assess given cordis on RIJ.
   CARDIAC: RR, normal S1, S2. III/VI SEM no /r/g. No thrills, lifts.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: well healed surgical scars, soft, + tenderness periumbilical
   and bilat upper quad abdominal pain, no tenderness over implant site.
   EXTREMITIES: No c/c/ e  wwp, pneumoboots in place
   Labs / Radiology
   413 K/uL
   8.7 g/dL
   155 mg/dL
   1.2 mg/dL
   29 mEq/L
   4.1 mEq/L
   52 mg/dL
   103 mEq/L
   140 mEq/L
   27.1 %
   13.5 K/uL
        [image002.jpg]
                            [**2154-2-2**]  04:02 AM
                            [**2154-2-2**]  04:56 PM
                            [**2154-2-3**]  04:22 AM
                            [**2154-2-4**]  05:13 AM
                            [**2154-2-5**]  05:17 AM
   WBC
   11.1
   13.3
   12.8
   15.3
   13.5
   Hct
   28.9
   29.6
   29.5
   28.5
   27.1
   Plt
   439
   427
   478
   437
   413
   Cr
   2.3
   1.7
   1.2
   1.2
   1.2
   TropT
   0.07
   0.07
   Glucose
   168
   200
   97
   175
   155
   Other labs:
   PT / PTT / INR:16.3/31.0/1.4,
   ALT / AST:[**12-24**], Alk Phos / T Bili:116/0.2, Amylase / Lipase:14/13,
   Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Micro:
   Blood culture from [**2-1**] to [**2-3**]: NGTD
   Urine culture from [**2-3**]: neg
   Stool culture [**2-3**]: c.diff neg, others still pending
   Respiratory viral culture and DFA: pending
   Lyme serology: neg
   CMV viral load: pending
   Imaging:
   CT abd/pelvis ([**2-3**]):
   1. No new fluid collection is identified in the abdomen or pelvis.
   2. Gas within the collecting system of the transplant kidney most
   likely
   represents reflux of air from the urinary bladder.
   3. Apparent mural thickening at the gastric fundus could represent
   peristalsis/focal collapse. However, correlation is advised to
   determine if
   there are epigastric clinical symptoms.
   4. Stable right adrenal mass most likely representing a myelolipoma.
   5. Left adnexal cyst, unchanged since prior CT.
   .
   CXR ([**2-4**]):
   There is no pneumothorax. Right internal jugular approach transvenous
   pacing
   wire is unchanged in position, tip probably in the region of the
   coronary
   sinus. Cardiomediastinal contours are stable. Small right pleural
   effusion
   and associated right basilar atelectasis is unchanged. There is new
   minimal
   left basilar atelectasis as well.
   Assessment and Plan
   64 yo F with a-fib on coumadin, dCHF, mod-severe MR improved to mild MR
   on TEE [**12-17**], IDDM, HTN, hyperlipidemia, NASH & ESRD s/p liver and
   kidney [**7-/2153**] presented to [**Hospital1 **] with high degree 2:1 AV block and
   acute renal failure
   .
   # RHYTHM: Pt with syncopal episode and found to have HR 20-30's at OSH.
   Likely high degree 2:1 AV block vs complete HB. Pt with transvenous
   pacer placed at the OSH and is being paced at 70. Pt hemodynamically
   stable. Etiology unclear but most likely [**3-12**] AV and MV calcification.
   Lyme serology negative. Other etiologies such as sarcoid, excess AV
   nodal blockade, endocarditis possible but unlikely.  Pt cath in [**2151**]
   showed 3VD, but no lesion required intervention. CE negative and no
   evidence of acute MI on ECG.
   - cont transvenous pacer
 pt unable to tolerate brief period off pacer
   - EP will place pacemaker today, pt is off heparin gtt
   - f/u EP recs
   - hold Coreg and other AV nodal blockades
   - monitor on tele
   .
   # Acute on Chronic Renal Failure: Pt s/p kidney transplant 6/[**2153**].
   Baseline following transplant was 0.8-1.2.  Cr improved to 1.2 less
   likely rejection or ATN given rapid improvement.  Most likely
   overdiuresis.  DDx: no e/o thrombosis, ? infection, obstructive
   - check tacro level and adjust dosing
   - restart lasix at 40mg [**Hospital1 **]
   - continue to hold metolazone and ACEi
   - appreciate transplant recs
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - cont Bactrim ppx
   - monitor electrolytes
   - renaly dose meds and avoid nephrotoxins
   .
   # Abdominal pain: chronic bladder spasm, possibly exacerbated by UTI.
   - consider urology consult today
   - continue oxycodone prn for pain control
   - continue to monitor hematuria.  If not passing clots, then can d/c
   foley as foley is worsening her abd pain
   .
   # Hematuria: likely traumatic from Foley.
   - continue to trend hct
   - If not passing clots, then can d/c foley as foley is worsening her
   abd pain
   .
   # UTI: Urine cx at OSH showed ESBL klebsiella and pt complaining of
   suprapubic abdominal discomfort.
   - continue meropenum
   - f/u ID recs
   .
   #. Leukocytosis: WBC trending down.  Urine cx at OSH showed ESBL
   klebsiella and pt complaining of suprapubic abdominal discomfort. CXR
   no infiltrate, CT abdomen benign.   Other possible etiologies include
   gout, temp pacer infection, endocarditis (unlikely with negative blood
   cx).  Pt immunocompromised and at risk of opportunistic infections.
   - trend fever and leukocytosis
   - empirically treat with meropenem
   - f/u ID recs
   - f/u blood cultures, CMV & BK, galactomannan, b-glucan, HHV6,
   adenovirus, EBV
   .
   # CORONARIES: No evidence of ACS. CE flat.
   - ASA 325mg
   - cont statin
   - holding ACEi and BB
   .
   # PUMP: Pt with dCHF (EF >55). Pt appears euvolemic on exam
   - monitor resp status, daily weight and I/O
   - restart lasix at 40mg [**Hospital1 **]
   - holding ACEi and BB
   .
   # hx splenic vein thrombosis:
   - holding heparin gtt today for pacemaker placement
   - will restart coumadin after pacemaker today.  Per surgery, she will
   need life-long coumadin
   .
   # NASH s/p transplant: Pt LFT are stable. No evidence of acute
   rejection. Tranplant team following
   - cont to trend LFT daily
   - appreciate transplant recs
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - will adjust tacro dosing according to level
   - cont Bactrim ppx
   .
   # DM: Pt is on insulin at home.  Will cont home regimen
   - NPH 28U qam
   - QACHS FS and cover with ISS
   - diabetic diet
   .
   # HTN: Pt BP was SBP 140-130's with pacing.  Without pacing SBP
   decreases to 70
   - cont amlodipine
   - holding BB and ACEi as above
   .
   # Hyperlipidemia: cont home statin
   .
   ICU Care
   Nutrition:
   NPO for pacemaker today
   Glycemic Control:  NPH and humalog ISS
   Lines:
   Cordis/Introducer - [**2154-2-1**] 11:29 PM
   20 Gauge - [**2154-2-3**] 08:23 PM
   Prophylaxis:
   DVT:  heparin gtt held today, will restart coumadin after pacemaker
   placement
   Stress ulcer: Omeprazole 40 mg PO DAILY
   VAP:  none
   Comments: Bowel regimen prn, Pain management with oxycodone
   Communication:  Comments: Son [**First Name8 (NamePattern2) **] [**Name (NI) 511**]) [**Telephone/Fax (1) 9204**]
   Code status: Full code
   Disposition: can be called out to floor after pacemaker placement today

2154-02-06 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2154-2-5**] 04:10 PM
   Pt sent to EP lab for PPM
 CORDIS/INTRODUCER - STOP [**2154-2-5**] 07:50 PM
 CARDIAC CATH - At [**2154-2-5**] 07:50 PM
   returned from EP at 19:50
   - pace maker placement today
   - urology was called, she has an outpatient appointment in 3 weeks
   - restarted coumadin after pacer placement. per surgery, will need
   life-long coumadin for splenic vein thrombosis
   - ID recs: continue [**Last Name (un) 430**] for 14d
   - transplant surgery recs: restart lasix 40mg [**Hospital1 **]
   - was going to call pt out after the procedure, but had clots in Foley
   causing obstruction (relieved by flushing), so kept her overnight
   Allergies:
   Erythromycin Base
   Unknown;
   Indomethacin
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2154-2-3**] 10:11 PM
   Metronidazole - [**2154-2-4**] 12:30 PM
   Meropenem - [**2154-2-5**] 09:00 PM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2154-2-5**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-2-6**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 73 (60 - 73) bpm
   BP: 134/55(74) {114/36(61) - 171/98(106)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 92%
   Heart rhythm: V Paced
   Wgt (current): 79.6 kg (admission): 78.2 kg
                  Total In:
                                                                  2,438 mL
                                                                    360 mL
   PO:
                                                                  1,540 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    898 mL
   Blood products:
   Total out:
                                                                  3,025 mL
                                                                  1,650 mL
   Urine:
                                                                  3,025 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -587 mL
                                                                 -1,290 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   GENERAL: NAD
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Dry MM,
   NECK: Supple with JVP unable to assess given cordis on RIJ.
   CARDIAC: pacer site c/d/i. RR, normal S1, S2. III/VI SEM no /r/g. No
   thrills, lifts.
   LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: well healed surgical scars, soft, + tenderness periumbilical
   and bilat upper quad abdominal pain, no tenderness over implant site.
   EXTREMITIES: No c/c/ e  wwp, pneumoboots in place
   Labs / Radiology
   138
                               [image002.gif]
                                     101
                               [image002.gif]
                                     42
   [image004.gif]
   83
                                                                   AGap=10
   [image005.gif]
   4.0
                               [image002.gif]
                                     31
                               [image002.gif]
                                     1.0
   [image007.gif]
   Ca: 8.6 Mg: 2.0 P: 3.8
   ALT: 29
   AP: 280
   Tbili: 0.4
   Alb: 3.4
   AST: 49
   LDH: 188
   Dbili:
   TProt:
   [**Doctor First Name 429**]: 18
   Lip: 17
   99
                                                                      13.3
                                                            [image007.gif]
                                     8.2
   [image004.gif]
   423
                 [image008.gif]
   [image004.gif]
                                    25.3
   [image007.gif]
   PT: 15.8
   PTT: 29.2
   INR: 1.4
                            [**2154-2-2**]  04:02 AM
                            [**2154-2-2**]  04:56 PM
                            [**2154-2-3**]  04:22 AM
                            [**2154-2-4**]  05:13 AM
                            [**2154-2-5**]  05:17 AM
   WBC
   11.1
   13.3
   12.8
   15.3
   13.5
   Hct
   28.9
   29.6
   29.5
   28.5
   27.1
   Plt
   439
   427
   478
   437
   413
   Cr
   2.3
   1.7
   1.2
   1.2
   1.2
   TropT
   0.07
   0.07
   Glucose
   168
   200
   97
   175
   155
   Other labs:
   Micro:
   Blood culture from [**2-1**] to [**2-3**]: NGTD
   Urine culture from [**2-3**]: neg
   Stool culture [**2-3**]: c.diff neg, others still pending
   Respiratory viral culture and DFA: neg
   Lyme serology: neg
   CMV viral load: neg
   BK, galactomannan, b-glucan, HHV6, adenovirus, EBV: pending
   Assessment and Plan
   64 yo F with a-fib on coumadin, dCHF, mod-severe MR improved to mild MR
   on TEE [**12-17**], IDDM, HTN, hyperlipidemia, NASH & ESRD s/p liver and
   kidney [**7-/2153**] presented to [**Hospital1 **] with high degree 2:1 AV block and
   acute renal failure
   .
   # RHYTHM: Pt with syncopal episode and found to have HR 20-30's at OSH.
   Likely high degree 2:1 AV block vs complete HB. Pt hemodynamically
   stable. Etiology unclear but most likely [**3-12**] AV and MV calcification.
   Lyme serology negative. Other etiologies such as sarcoid, excess AV
   nodal blockade, endocarditis possible but unlikely.  Pt cath in [**2151**]
   showed 3VD, but no lesion required intervention. CE negative and no
   evidence of acute MI on ECG. Pt is s/p PPM placement yesterday by EP.
   She tolerated the procedure well.
   - f/u CXR from this am
   - f/u EP recs
   - can restart  BB now that pt is paced
   - monitor on tele
   .
   # Acute on Chronic Renal Failure: Pt s/p kidney transplant 6/[**2153**].
   Baseline following transplant was 0.8-1.2.  Cr improved to 1.2 less
   likely rejection or ATN given rapid improvement.  Most likely
   overdiuresis.  DDx: no e/o thrombosis, ? infection, obstructive
   - check tacro level and adjust dosing
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - cont Bactrim ppx
   - continue lasix at 40mg [**Hospital1 **]
   - can restart metolazone and ACEi
   - appreciate transplant recs
   - monitor electrolytes
   - renaly dose meds and avoid nephrotoxins
   .
   # Abdominal pain: chronic bladder spasm, possibly exacerbated by UTI.
   - pt has an urology outpatient follow up appointment in 3 weeks
   - continue oxycodone prn for pain control
   - continue to monitor hematuria.  If not passing clots, then can d/c
   foley as foley is worsening her abd pain
   .
   # Anemia/Down-trending Hct:  pt has Hematuria, likely traumatic from
   Foley.  Hct trending down.
   - continue to trend hct
   - transfuse 1u pRBC
   - If not passing clots, then can d/c foley as foley is worsening her
   abd pain
   - outpatient f/u with urology in 3 weeks
   .
   # UTI: Urine cx at OSH showed ESBL klebsiella and pt complaining of
   suprapubic abdominal discomfort.
   - change [**Last Name (un) 430**] to ertapenem
   - PICC placement today
   - f/u ID recs
   .
   #. Leukocytosis: WBC trending down.  Urine cx at OSH showed ESBL
   klebsiella and pt complaining of suprapubic abdominal discomfort. CXR
   no infiltrate, CT abdomen benign.   Other possible etiologies include
   gout, temp pacer infection, endocarditis (unlikely with negative blood
   cx).  Pt immunocompromised and at risk of opportunistic infections.
   - trend fever and leukocytosis
   - empirically treat with ertapenem for 14 days
   - PICC placement today
   - f/u ID recs
   - f/u blood cultures, BK, galactomannan, b-glucan, HHV6, adenovirus,
   EBV
   .
   # CORONARIES: No evidence of ACS. CE flat.
   - continue ASA 325mg, statin
   - can restart  ACEi and BB
   .
   # PUMP: Pt with dCHF (EF >55). Pt appears euvolemic on exam
   - monitor resp status, daily weight and I/O
   - continue lasix at 40mg [**Hospital1 **]
   - can restart  ACEi and BB
   .
   # hx splenic vein thrombosis:
   - continue coumadin.  Per surgery, she will need life-long coumadin
   - trend INR, goal INR [**3-13**]
   .
   # NASH s/p transplant: Pt LFT are stable. No evidence of acute
   rejection. Tranplant team following
   - cont prednisone 10mg daily, mycophenolate mofetil 250mg [**Hospital1 **]
   - will adjust tacro dosing according to level
   - cont Bactrim ppx
   - cont to trend LFT daily
   - appreciate transplant recs
   .
   # DM: Pt is on insulin at home.  Will cont home regimen
   - NPH 28U qam
   - QACHS FS and cover with ISS
   - diabetic diet
   .
   # HTN: Pt BP was SBP 140-130's with pacing.  Without pacing SBP
   decreases to 70
   - cont amlodipine
   - can restart  ACEi and BB
   .
   # Hyperlipidemia: cont home statin
   ICU Care
   Nutrition:
   Regular cardiac healthy diabetic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-2-3**] 08:23 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: Omeprazole 40 mg PO DAILY
   VAP:  none
   Comments: Bowel regimen prn, Pain management with oxycodone
   Communication:  Comments: Son [**First Name8 (NamePattern2) **] [**Name (NI) 511**]) [**Telephone/Fax (1) 9204**]
   Code status: Full code
   Disposition: can be called out to floor today